US07282586B1
Referring to Scheme 5, 237 ml sulfuric acid (concentrate) was first added to a 1 L three-necked flask. 35 g 1,10-phenanthroline was then added into the flask, and the temperature of mixture was kept lower than 100° C. Next, 2436 ml (67%) HNO3 was added drop by drop, and the temperature of mixture was kept lower than 110° C. The mixture was subsequently heated to 100° C. and stirred overnight. After completion of reaction, the reaction mixture was cooled to room temperature and placed into 2 L water, and then NaOH(aq) was added to adjust pH value to a range from 6 to 7, so as to give solids. The solids were washed by water, and dried to obtain solids 5-nitro-1,10-phenanthroline 30 g (0.13 mol, yield 68%).

reactant | sulfuric acid | 237 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,10-phenanthroline | 35 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | HNO3 | 2436 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | water | 2 L | O | H2O
product | 5-nitro-1,10-phenanthroline | 0.13 mol, 30 g, yield 68% | [N+](=O)([O-])C1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7N3O2
